US04017564
Preparation of allyl phosphonic acid dimethyl ester
124 parts of trimethyl phosphite, together with 1 part of Raney nickel, are heated for 1 hour to 130°-140° C in a nitrogen atmosphere. 80 parts of allyl chloride are then slowly added dropwise so that the temperature does not fall below 80° to 90° C. The methyl chloride formed escapes through the reflux condenser. The reaction is over after 22 hours. The Raney nickel is filtered off, followed by fractionation in vacuo. Bp: 83°-84° C/12 Torr; nD20 : 1.4371; Yield: 86 parts, corresponding to 57% of the theoretical.

reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | methyl chloride | CCl | CH3Cl
catalyst | Raney nickel | [Ni] | Ni
product | allyl phosphonic acid dimethyl ester | COP(OC)(=O)CC=C | C5H11O3P
